US08685969B2
6. 7-Acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide
A mixture of methyl 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxylate (0.520 g, 1.389 mmol) and ammonia in methanol (30 ml, 210 mmol) was heated in a sealed bottle at 100° C. for 2 hr. Removal of the volatiles under vacuum gave a crude product (0.501 g) as a tan solid. This crude was 82% pure, but was used in the next step without further purification.

reactant | methyl 7-acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxylate | 1.389 mmol, 0.520 g | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N)C)C(=O)OC | C21H18N4O3
reactant | ammonia | N | H3N
reactant | methanol | 210 mmol, 30 ml | CO | CH4O
product | 7-Acetyl-1-(3-amino-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.501 g | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N)C)C(=O)N | C20H17N5O2
